US08975254B2
f) (S)-3-Acetyl-N-(1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-dichlorobenzonitrile (0.121 g, 0.41 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.063 g, 0.41 mmol), HOBt (0.083 g, 0.615 mmol), DIPEA (0.214 mL, 1.23 mmol) and EDCI (0.118 g, 0.615 mmol) using DMF (10 mL) as solvent using the method of Example 34(d). Yield 6.3 mg. 1H NMR (400 MHz; CDCl3): δ 1.29 (d, 3H), 2.55 (s, 3H), 4.36 (m, 2H), 4.57 (m, 1H), 6.64 (d, 1H), 7.40 (s, 1H), 7.58 (d, 1H), 7.83 (s, 2H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-dichlorobenzonitrile | 0.41 mmol, 0.121 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)Cl)Cl)C | C13H12Cl2N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.41 mmol, 0.063 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HOBt | 0.615 mmol, 0.083 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.23 mmol, 0.214 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.615 mmol, 0.118 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-Acetyl-N-(1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)Cl)C#N)Cl)C | C19H16Cl2N6O2
